US07951810B2
Step d: (1S,2R,4R)-4-(6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol
To a solution of 6-chloro-9-[(6aR,8R,9aS)-2,2,4,4-tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]trioxadisilocin-8-yl]-9H-purine (0.518 g, 1.0 mmol) in THF/pyridine (5.2 mL, 1:1) was added hydrofluoric acid in pyridine (0.381 mL, 15.2 mmol). The reaction was stirred for 14 h then quenched with saturated aq NaHCO3 and concentrated under reduced pressure. The residue was dissolved in 10% solution of MeOH/DCM, filtered, the organic layer was concentrated and the residue purified by flash chromatography (0 to 10% MeOH/DCM to afford the title compound (0.171 g, 63%).

reactant | 6-chloro-9-[(6aR,8R,9aS)-2,2,4,4-tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]trioxadisilocin-8-yl]-9H-purine | 1.0 mmol, 0.518 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@H]2[C@@H](O[Si](O[Si](OC2)(C(C)C)C(C)C)(C(C)C)C(C)C)C1 | C23H39ClN4O3Si2
reactant | hydrofluoric acid | F | FH
reactant | pyridine | 15.2 mmol, 0.381 mL | N1=CC=CC=C1 | C5H5N
solvent | THF pyridine | 5.2 mL | C1CCOC1.N1=CC=CC=C1
product | (1S,2R,4R)-4-(6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol | 0.171 g, 63% | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO | C11H13ClN4O2
